US07858796B2
(267) 3-{1-[(1-methyl-1H-imidazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
To 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (40 mg, 0.12 mmol) in methylene chloride (5 mL) at 0° C., 1-methyl-1H-imidazole-4-sulfonyl chloride (27.1 mg, 0.14 mmol) and triethylamine (0.07 mL, 0.50 mmol) were added. The reaction mixture was stirred at 0° C. for 30 min. Then the reaction mixture was partitioned between methylene chloride and water, the aqueous layer was extracted with methylene chloride (25 mL×2) and combined organic phase was dried with Mg2SO4 and concentrated by reduce pressure, and purified by Gilson HPLC (reverse phase, eluting with CH3CN/Water, 0.1% TFA, 10/90, v/v, over 15 min) to give the title compound (22.5 mg, 39%).

reactant | 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.12 mmol, 40 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | 0.14 mmol, 27.1 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | TEA | 0.50 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{1-[(1-methyl-1H-imidazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 22.5 mg, 39% | CN1C=NC(=C1)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C24H25N5O3S
